US05292937
Part D. Preparation of 1-carboethoxy-1-ethoxycarbonyloxycarbonyl-2-cyclopropene
A 250 milliliter round-bottom flask was equipped with a magnetic stirrer and an addition funnel with N2 inlet. The flask was charged with 1.30 grams (0.008 mole) of monoethyl cyclopropene-1,1-dicarboxylate, 50 millilaters of dry THF, 2.3 grams (0.02 mole) of potassium carbonate (anhydrous), and 450 milligrams of dicyclohexano-18-crown-6 ether. The stirred reaction mixture was cooled to 0° C., and 0.90 gram (0.008 mole) of ethyl chloroformate in 10 millilaters of THF was added dropwise. The mixture was stirred for 21/2 hours at O° C. At this time an aliquot from the reaction mixture showed a very strong anhydride carbonyl stretch at 1820 cm-1 in the infrared indicating the formation of the mixed anhydride 1-carboethoxy-1-ethoxycarbonyloxycarbonyl-2-cyclopropene. The balance of the reaction mixture containing the mixed anhydride was carried on to Part E.

reactant | monoethyl cyclopropene-1,1-dicarboxylate | 0.008 mole, 1.30 grams | C1(C=C1)(C(=O)OCC)C(=O)[O-]
reactant | potassium carbonate | 0.02 mole, 2.3 grams | C([O-])([O-])=O.[K+].[K+]
reactant | dicyclohexano-18-crown-6 ether | 450 milligrams | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
reactant | ethyl chloroformate | 0.008 mole, 0.90 gram | ClC(=O)OCC | C3H5ClO2
solvent | THF | C1CCOC1 | C4H8O
product | 1-carboethoxy-1-ethoxycarbonyloxycarbonyl-2-cyclopropene | C(=O)(OCC)C1(C=C1)C(=O)OC(=O)OCC | C10H12O6
